US05998433
Synthesis of N,N-dimethyl-[5-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.186 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.186 g | CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C24H22N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-(9-fluorenone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1=CC=2C(C3=CC=CC=C3C2C=C1)=O | InChI=1S/C24H22N2O3.ClH/c1-25(2)14-17-11-16-13-26(10-9-22(16)29-17)24(28)15-7-8-19-18-5-3-4-6-20(18)23(27)21(19)12-15;/h3-8,11-12H,9-10,13-14H2,1-2H3;1H
